US04795751
5-Amino-1-cyclopropyl-6,8-difluoro-7-(3-methyl-1-piperazinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid was suspended in absolute ethanol. Concentrated sulfuric acid was added to the suspension and the mixture was refluxed for 10 hours with stirring. After evaporation of ethanol, chloroform and a 20% aqueous sodium hydroxide solution were added to the residue, and the mixture was adjusted to pH 9. The organic layer was separated and chloroform was evaporated under reduced pressure. The resulting crystals were collected by filtration to give ethyl 5-amino-1-cyclopropyl-6,8-difluoro-7-(3-methyl-1-piperazinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylate, m.p. 132°-134° C.

reactant | 5-Amino-1-cyclopropyl-6,8-difluoro-7-(3-methyl-1-piperazinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | NC1=C2C(C(=CN(C2=C(C(=C1F)N1CC(NCC1)C)F)C1CC1)C(=O)O)=O | C18H20F2N4O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | C(C)O | C2H6O
product | ethyl 5-amino-1-cyclopropyl-6,8-difluoro-7-(3-methyl-1-piperazinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylate | NC1=C2C(C(=CN(C2=C(C(=C1F)N1CC(NCC1)C)F)C1CC1)C(=O)OCC)=O | C20H24F2N4O3
